US09382231B2
Step 6: 4-{3-(Cyanomethyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylbenzamide
A mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (2.98 g, 15.3 mmol), 4-[3-(cyanomethylene)azetidin-1-yl]-N-isopropylbenzamide (4.00 g, 15.7 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (1.17 g, 7.68 mmol) in isopropyl alcohol (10 mL) was heated at 70° C. for 1 h. The mixture was cooled down to 35° C. To the suspension was added 30 ml of methyl tert-butyl ether (MTBE), and stirred at room temperature for 1 h. The precipitates formed was collected by filtration, washed with MTBE, and dried under reduced pressure to afford the desired product (6.2 g 89.8%). 1H NMR (400 MHz, DMSO-d6) δ 8.35 (s, 1H), 7.90 (d, J=7.8 Hz, 1H), 7.75 (s, 1H), 7.73 (d, J=8.7 Hz, 2H), 6.52 (d, J=8.7 Hz, 2H), 4.40 (d, J=8.6 Hz, 2H), 4.20 (d, J=8.6 Hz, 2H), 4.05 (m, 1H), 3.65 (s, 2H), 1.24 (s, 12H), 1.12 (d, J=6.6 Hz, 6H) ppm. LCMS cacld. for C24H33BN5O3 (M+1)+: m/z=450.3. Found: 450.3.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 15.3 mmol, 2.98 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | 4-[3-(cyanomethylene)azetidin-1-yl]-N-isopropylbenzamide | 15.7 mmol, 4.00 g | C(#N)C=C1CN(C1)C1=CC=C(C(=O)NC(C)C)C=C1 | C15H17N3O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 7.68 mmol, 1.17 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl tert-butyl ether | 30 ml | C(C)(C)(C)OC | C5H12O
solvent | isopropyl alcohol | 10 mL | C(C)(C)O | C3H8O
product | 4-{3-(Cyanomethyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylbenzamide | 6.2 g, 89.8% | C(#N)CC1(CN(C1)C1=CC=C(C(=O)NC(C)C)C=C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C24H32BN5O3
